US07960394B2
(3) Production of 3-amino-2-methoxyisonicotinic acid
3-[(T-butoxycarbonyl)amino]-2-methoxyisonicotinic acid (6.6 g, 24.6 mmol) was dissolved in trifluoroacetic acid (10 mL), and stirred at room temperature for 8 hours. The solvent was evaporated off under reduced pressure, and the resulting milky white solid was washed with water and ethanol to obtain a white solid (2.35 g, 56.8%). The mother liquid was again concentrated, and the resulting residue was washed with acetone and hexane to obtain a pale pink solid (1.3 g, 31.4%).

reactant | 3-[(T-butoxycarbonyl)amino]-2-methoxyisonicotinic acid | 24.6 mmol, 6.6 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CN=C1OC | C12H16N2O5
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-amino-2-methoxyisonicotinic acid | 2.35 g, 56.8% | NC1=C(C(=O)O)C=CN=C1OC | C7H8N2O3
